US09085583B2
To a solution of 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole-3-carbaldehyde (50 mg, 0.2 mmol) in acetone (2 mL) and water (2 mL) was added potassium permanganate (95 mg, 0.6 mmol). The resulting reaction mixture was allowed to stir for 3 hours at room temperature. The reaction mixture was lyophilized directly to give 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole-3-carboxylic acid (50 mg, 94%) as a brown solid. LCMS (M+H+) m/z: calcd. 261.14. found 261.9.

reactant | 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole-3-carbaldehyde | 0.2 mmol, 50 mg | COCC(C)(C)N1C(=C(C2=CC=CC=C12)C=O)C | C15H19NO2
reactant | potassium permanganate | 0.6 mmol, 95 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
product | 1-(1-methoxy-2-methylpropan-2-yl)-2-methyl-1H-indole-3-carboxylic acid | 50 mg, 94% | COCC(C)(C)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C15H19NO3
